datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C(c1nnn[n-]1)[NH2:10].c1cc([O:21][H:20])c2nnccc2c1>>C(c1nnn[n-]1)[NH2+:10][H:20].c1cc([O-:21])c2nnccc2c1 10=20;20,21=21",
"Cc1c[n:10]c2c(O)cccc2c1C.ON=C1CCCC/C1=N\[O:21][H:20]>>Cc1c[n+:10]([H:20])c2c(O)cccc2c1C.ON=C1CCCC/C1=N\[O-:21] 10=20;20,21=21",
"CC[N+:21](CCO)(c1ccc(N)cc1)[H:20].Cc1cccc(C)c1[N-:10]N=C(C#N)C#N>>CC[N:21](CCO)c1ccc(N)cc1.Cc1cccc(C)c1[N:10](N=C(C#N)C#N)[H:20] 10=20;20,21=21",
"COP(=O)(NS(C)(=O)=O)[O:21][H:20].Nc1ccc2[nH]c(Cc3ccccc3)[n:10]c2c1>>COP(=O)(NS(C)(=O)=O)[O-:21].Nc1ccc2[nH]c(Cc3ccccc3)[n+:10]([H:20])c2c1 10=20;20,21=21",
"O=C(NCCC[N:10]1CCOCC1)c1ccc(Cl)cc1.O=S(=O)(C(F)(F)F)[O:21][H:20]>>O=C(NCCC[N+:10]1([H:20])CCOCC1)c1ccc(Cl)cc1.O=S(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21",
"Cc1cc(C)[n:10]c2c1ccc1cccnc12.Cc1ccc2c(c1)NCC[NH+:21]2[H:20]>>Cc1cc(C)[n+:10]([H:20])c2c1ccc1cccnc12.Cc1ccc2c(c1)NCC[NH:21]2 10=20;20,21=21",
"NC(=O)CN(CCN(CC(N)=O)Cc1ccccc1[O-:10])Cc1ccccc1[O-].O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>NC(=O)CN(CCN(CC(N)=O)Cc1ccccc1[O:10][H:20])Cc1ccccc1[O-].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CCC(O)C[N+:21](CC)(CC(O)CC)[H:20].CCOC(=O)C1(c2ccccc2)CC[N:10](CC)CC1>>CCC(O)C[N:21](CC)CC(O)CC.CCOC(=O)C1(c2ccccc2)CC[N+:10](CC)([H:20])CC1 10=20;20,21=21",
"Cc1cc(C(=O)[O:21][H:20])ccc1O.c1ccc2c(c1)nc1ccccc1[n:10]2>>Cc1cc(C(=O)[O-:21])ccc1O.c1ccc2c(c1)nc1ccccc1[n+:10]2[H:20] 10=20;20,21=21",
"Cc1nnc(/C=N/[O-:10])s1.c1ccc(CC[NH2+]CC[NH2+:21][H:20])cc1>>Cc1nnc(/C=N/[O:10][H:20])s1.c1ccc(CC[NH2+]CC[NH2:21])cc1 10=20;20,21=21",
"CN(C)Cc1ccccc1[O-:10].CN(c1ccccc1)C([OH2+])[O:21][H:20]>>CN(C)Cc1ccccc1[O:10][H:20].CN(c1ccccc1)C([OH2+])[O-:21] 10=20;20,21=21",
"C/S(C(C)(C)C)=[O+:21]\[H:20].O=C(C12CC3(F)CC(F)(CC(F)(C3)C1)C2)[O-:10]>>CS(C(C)(C)C)=[O:21].O=C(C12CC3(F)CC(F)(CC(F)(C3)C1)C2)[O:10][H:20] 10=20;20,21=21",
"Clc1cccc(/C(c2ccccc2)=[NH+:21]/[H:20])c1.O=[N+]([O-])c1nc(-n2cnc(Cl)n2)[n-:10]n1>>Clc1cccc(C(c2ccccc2)=[NH:21])c1.O=[N+]([O-])c1nc(-n2cnc(Cl)n2)[n:10]([H:20])n1 10=20;20,21=21",
"Nc1[nH][n:10]c(N)c1/N=N/c1ccc(O)cc1.O=C(C1(O)CCCC1)[O:21][H:20]>>Nc1[nH][n+:10]([H:20])c(N)c1/N=N/c1ccc(O)cc1.O=C(C1(O)CCCC1)[O-:21] 10=20;20,21=21",
"CC(=O)c1cccc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(=O)c1cccc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Brc1c[n+:21]([H:20])cc2ccccc12.CC(=S)[N-:10]c1ccc(Cl)cc1>>Brc1c[n:21]cc2ccccc12.CC(=S)[N:10](c1ccc(Cl)cc1)[H:20] 10=20;20,21=21",
"COc1ccc([O:21][H:20])cc1C.C[N:10](C)CCCC(=O)Oc1ccc([N+](=O)[O-])cc1>>COc1ccc([O-:21])cc1C.C[N+:10](C)(CCCC(=O)Oc1ccc([N+](=O)[O-])cc1)[H:20] 10=20;20,21=21",
"CC(=O)Nc1ccc2cc3ccccc3[n+:21]([H:20])c2c1.CC(=O)[C@H]1C[C@@H](CC(=O)[O-:10])C1(C)C>>CC(=O)Nc1ccc2cc3ccccc3[n:21]c2c1.CC(=O)[C@H]1C[C@@H](CC(=O)[O:10][H:20])C1(C)C 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CCCCC[NH2:10]>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CCCCC[NH2+:10][H:20] 10=20;20,21=21",
"O=C([O-])c1ccc2c(ccc[n+:21]2[H:20])c1.c1ccc(Cn2cc[n:10]c2)cc1>>O=C([O-])c1ccc2c(ccc[n:21]2)c1.c1ccc(Cn2cc[n+:10]([H:20])c2)cc1 10=20;20,21=21",
"COc1ccc([N+](=O)[O-])c(C[NH2:10])c1.Oc1ccccc1CN1CCC[NH2+]CCC[NH+:21]([H:20])CCC1>>COc1ccc([N+](=O)[O-])c(C[NH2+:10][H:20])c1.Oc1ccccc1CN1CCC[NH2+]CCC[NH:21]CCC1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1cc(CCCC[NH2:10])ccn1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1cc(CCCC[NH2+:10][H:20])ccn1 10=20;20,21=21",
"C[N+:21]1([H:20])CCCC1c1cccnc1.OCCN1CC[NH:10]CC1>>C[N:21]1CCCC1c1cccnc1.OCCN1CC[NH+:10]([H:20])CC1 10=20;20,21=21",
"CC[NH+]1CCCC1CNC(=O)c1c(OC)c(Br)cc(Br)c1[O-:10].Cc1cccc2c1C(=O)[N:21]([H:20])C2=O>>CC[NH+]1CCCC1CNC(=O)c1c(OC)c(Br)cc(Br)c1[O:10][H:20].Cc1cccc2c1C(=O)[N-:21]C2=O 10=20;20,21=21",
"Cc1nnn(CC(=O)[O:21][H:20])n1.O=C([C@H]1C[C@@H]1Cl)[O-:10]>>Cc1nnn(CC(=O)[O-:21])n1.O=C([C@H]1C[C@@H]1Cl)[O:10][H:20] 10=20;20,21=21",
"CCC(O)C[N+:21](C)(CC(C)O)[H:20].Cc1cc(S(=O)(=O)[N-:10]c2nccs2)ccc1N>>CCC(O)C[N:21](C)CC(C)O.Cc1cc(S(=O)(=O)[N:10](c2nccs2)[H:20])ccc1N 10=20;20,21=21",
"Cc1ccc(N=C2C=CC(=[NH:10])C=C2)c(N)c1.O=C1CNC(=O)[N:21]1[H:20]>>Cc1ccc(N=C2C=CC(=[NH+:10][H:20])C=C2)c(N)c1.O=C1CNC(=O)[N-:21]1 10=20;20,21=21",
"CC1CNCc2ccccc2OCCOc2ccccc2C[NH:10]1.COc1ncc2c(nc[n:21]2[H:20])n1>>CC1CNCc2ccccc2OCCOc2ccccc2C[NH+:10]1[H:20].COc1ncc2c(nc[n-:21]2)n1 10=20;20,21=21",
"CCC(CC)(CC)[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCC(CC)(CC)[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"N#CC(C#N)=C(C#N)[N-:10]C1CCCCC1.O=[N+]([O-])c1ccc(/C=N/c2nccc[n+:21]2[H:20])cc1>>N#CC(C#N)=C(C#N)[N:10](C1CCCCC1)[H:20].O=[N+]([O-])c1ccc(/C=N/c2nccc[n:21]2)cc1 10=20;20,21=21",
"CC[NH2+]C(C)C(=O)[O-:10].[NH3+]c1ccc(-c2c[n+:21]([H:20])c(-c3ccc(Cl)cc3)o2)cc1>>CC[NH2+]C(C)C(=O)[O:10][H:20].[NH3+]c1ccc(-c2c[n:21]c(-c3ccc(Cl)cc3)o2)cc1 10=20;20,21=21",
